US05506267
4-[6,7-bis(octadecylcarbamoyloxy)-4thiaheptanoylamino]benzoylglutamic acid
A solution of 4-[6,7-bis(octadecylcarbamoyloxy)-4-thiaheptanoylamino]benzoyl-glutamic acid di-t-butyl ester as obtained in Example 31 (100 mg) in trifiuoroacetic acid (2 ml)-dichloromethane (0.5 ml) was stirred at room temperature for 1 hour. After solvent concentration under reduced pressure, the resulting residue was crystallized from chloroform-methanolwater to yield the title compound (99 mg, yield 100%) as a colorless powder.

reactant | 4-[6,7-bis(octadecylcarbamoyloxy)-4-thiaheptanoylamino]benzoyl-glutamic acid di-t-butyl ester | C(C)(C)(C)OC([C@@H](NC(C1=CC=C(C=C1)NC(CCSCC(COC(NCCCCCCCCCCCCCCCCCC)=O)OC(NCCCCCCCCCCCCCCCCCC)=O)=O)=O)CCC(=O)OC(C)(C)C)=O | C64H114N4O10S
reactant | dichloromethane | 0.5 ml | ClCCl | CH2Cl2
solvent | trifiuoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 4-[6,7-bis(octadecylcarbamoyloxy)-4thiaheptanoylamino]benzoylglutamic acid | 99 mg, yield 100% | C(CCCCCCCCCCCCCCCCC)NC(=O)OC(CSCCC(=O)NC1=CC=C(C(=O)N[C@@H](CCC(=O)O)C(=O)O)C=C1)COC(NCCCCCCCCCCCCCCCCCC)=O | C56H98N4O10S
